data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3061,3435,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([O+:8]=[C:9]([CH3:10])[CH3:11])[C:12]([CH3:13])=[O:14]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([C:12]([CH3:13])=[O:14])[O:8][C:9]1([CH3:10])[CH3:11],water,298.15,16.775690477451167,-41.82141014251256
610,670,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH:15]#[N+:16][C-:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:17]([CH3:18])([C:19](=[O:20])[NH:21][CH3:22])[N:16]=[CH:15]3,water,298.15,11.939756282878983,-62.10177963123371
789,854,[CH3:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:14]([CH3:13])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([CH3:22])[CH3:23],water,298.15,29.659546559491176,-12.53777537630686
323,352,[CH3:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]([CH3:17])=[CH:18][C:19]#[N:20]>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[CH:18]([C:19]#[N:20])[N:16]([CH3:17])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,17.510432594325547,-27.384516810693
3753,4291,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][N+:17]#[C:18][C:19]#[N:20]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:16]([CH3:15])[N:17]=[C:18]2[C:19]#[N:20],water,298.15,13.206297202165056,-30.65912735821709
223,243,[CH3:10][N-:11][N+:12]#[C:13][C:14](=[O:15])[NH:16][CH3:17].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:13]([C:14](=[O:15])[NH:16][CH3:17])=[N:12][N:11]2[CH3:10],water,298.15,17.377965858422904,-55.47647082225524
1377,1514,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]#[N:20])=[N+:21]([CH3:22])[N-:23][C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:18]([C:16]([O:15][CH3:14])=[O:17])([C:19]#[N:20])[N:21]([CH3:22])[N:23]3[C:24]([CH3:25])=[O:26],water,298.15,16.279158746054087,-37.60611429288
4764,5440,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2-:15][O+:16]=[C:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH2:15][O:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,4.3808122873104125,-40.79474810022639
143,159,[CH3:13][C:14]#[N+:15][O-:16].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[O:16][N:15]=[C:14]2[CH3:13],water,298.15,29.55666304587908,-26.05308313065585
1055,1150,[Br:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[O:16][C:13]1([C:11]([CH3:10])=[O:12])[C:14]#[N:15],water,298.15,10.679234045291588,-59.797501997419005
1994,2215,[CH3:18][N+:19](=[CH:20][C:21]#[N:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([F:12])([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([F:12])([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:19]([CH3:18])[CH:20]2[C:21]#[N:22],water,298.15,12.415086357022178,-45.25510417978549
5212,5913,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[O:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:19]([CH3:20])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][CH3:18],water,298.15,36.92998243484461,-9.148474177827598
